US04285883
2,3-dichloronitrobenzene (19.2 g), cuprous chloride (2.4 g), anhydrous cupric sulfate (1.0 g), sodium cyanide (purity of 90%, 5.4 g) and dimethylformamide (3.0 g) were heated together to 190° C. and made to react for 3.5 hours at the temperature. After the reaction was over, 100 ml of dichloroethane were added to the reaction mixture and the mixture was filtered. After separating the filtrate, 100 ml of an aqueous 5% solution of ammonia were added to the filtrate and after well shaking the mixture, it was separated into layers. After distilling off dichloroethane from the organic layer and washing the residue with ethanol, 14.3 g of 2-chloro-6-nitrobenzonitrile was obtained as a pale yellow crystal. The yield was 78% theoretical.

reactant | 2,3-dichloronitrobenzene | 19.2 g | ClC1=C(C=CC=C1Cl)[N+](=O)[O-] | C6H3Cl2NO2
reactant | sodium cyanide | 5.4 g | [C-]#N.[Na+]
reactant | dichloroethane | 100 ml | ClC(C)Cl | C2H4Cl2
solvent | dimethylformamide | 3.0 g | CN(C=O)C | C3H7NO
product | 2-chloro-6-nitrobenzonitrile | 14.3 g, yield was 78% | ClC1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C7H3ClN2O2
